US07452893B2
Step 3: ethyl difluoro(4-methylphenyl)acetate
The compound was prepared by modification to the procedure of Sato, K.; Kawata, R.; Ama, F.; Omote, M.; Ando, A. Chemical & Pharmaceutical Bulletin 47(7), 1013-1016 (1999). To a solution of 1-iodo-4-methylbenzene (25.1 g, 115 mmol) in DMSO (125 mL) was added ethyl bromo(difluoro)acetate (24.7 g, 122 mmol) and copper (16.8 g, 264 mmol), and the resulting solution was heated to 55° C. After 14 h the reaction was cooled to room temperature and diluted with isopropyl acetate, then cooled to 0° C. and treated with a solution of potassium hydrogen phosphate (23.3 g) in water (250 mL). The mixture was filtered through a pad of Celite, rinsing with isopropyl acetate. The phases were separated and the aqueous layer was washed with isopropyl acetate. The combined organic layers were washed with brine, dried (sodium sulfate), filtered and concentrated. The residue was purified by silica gel chromatography (5% methylene chloride, 1-8% ethyl acetate/hexanes gradient) gave the title compound (17.2 g) as an oil.

reactant | 1-iodo-4-methylbenzene | 115 mmol, 25.1 g | IC1=CC=C(C=C1)C | C7H7I
reactant | ethyl bromo(difluoro)acetate | 122 mmol, 24.7 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | potassium hydrogen phosphate | 23.3 g | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
solvent | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
solvent | water | 250 mL | O | H2O
catalyst | copper | 264 mmol, 16.8 g | [Cu] | Cu
product | ethyl difluoro(4-methylphenyl)acetate | 17.2 g | FC(C(=O)OCC)(C1=CC=C(C=C1)C)F | C11H12F2O2
